US07153997B2
Bis-(4-methoxyphenyl) iodonium tetrafluoroborate (5.48 g, 12.8 mmol) and cupper powder (1.25 g, 19.6 mmol) was suspended in dichloromethane (25 mL) and the resulting suspension was cooled to 0° C. While stirring, a solution of methyl(3,5-dibromo-4-hydroxyphenyl)acetate (3.19 g, 9.8 mmol), triethylamine (1.64 mL, 11.8 mmol) and dichloromethane (35 mL) was added to the suspension covered by aluminum foil. After 20 hours stirring in the dark at room temperature the crude reaction mixture was washed with hydrochloric acid (1 N) and a phase separator (IST) was used to separate the two phases. The remaining acidic aqueous phase was extracted by chloroform and the collected organic phases were concentrated in vacuo. The residue was purified on column (MPLC, silica gel, gradient elution: n-heptane/ethyl acetate from 1:0 to 4:1) to give 2.5 g (45%) of methyl[3,5-dibromo-4-(4-hydroxyphenoxy)phenyl]acetate.

reactant | Bis-(4-methoxyphenyl) iodonium tetrafluoroborate | 12.8 mmol, 5.48 g | F[B-](F)(F)F.COC1=CC=C(C=C1)[I+]C1=CC=C(C=C1)OC
reactant | methyl(3,5-dibromo-4-hydroxyphenyl)acetate | 9.8 mmol, 3.19 g | COC(CC1=CC(=C(C(=C1)Br)O)Br)=O | C9H8Br2O3
reactant | triethylamine | 11.8 mmol, 1.64 mL | C(C)N(CC)CC | C6H15N
reactant | aluminum | [Al] | Al
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | methyl[3,5-dibromo-4-(4-hydroxyphenoxy)phenyl]acetate | 2.5 g, 45% | COC(CC1=CC(=C(C(=C1)Br)OC1=CC=C(C=C1)O)Br)=O | C15H12Br2O4
